US06727264B1
2-METHYL-N-[3-(1-{3-[5-(TRIFLUOROMETHOXY)-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE:
Prepared by Procedure H and Scheme S using N-(3-{1-[4-(1,3-dioxolan-2-yl)butyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 1-[4-(trifluoromethoxy)phenyl]hydrazine hydrochloride: ESMS m/e: 488.2 (M+H)+.

reactant | N-(3-{1-[4-(1,3-dioxolan-2-yl)butyl]-4-piperidinyl}phenyl)-2-methylpropanamide | O1C(OCC1)CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C22H34N2O3
reactant | 1-[4-(trifluoromethoxy)phenyl]hydrazine hydrochloride | Cl.FC(OC1=CC=C(C=C1)NN)(F)F
product | 2-METHYL-N-[3-(1-{3-[5-(TRIFLUOROMETHOXY)-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCC1=CNC2=CC=C(C=C12)OC(F)(F)F)C | C27H32F3N3O2
